US06852882B2
2-Chloro-5-phenoxybenzoic acid
A mixture of 2-chloro-5-hydroxybenzoic acid (0.52 g, 3.0 mmol), phenyl boronic acid trimeric anhydride (1.6 g, 5 mmol), copper (II) acetate (0.55 g, 3.0 mmol), triethylamine (1.5 g, 15 mmol), pyridine (1.2 g; 15 mmol) and 4 angstrom sieves (2.6 g) were strirred in dichloromethane (15 mL) for 18 h. The mixture was acidified with 3N HCl and was extracted with diethyl ether (3×). The combined organic extracts were washed with brine, were dried (MgSO4) and were concentrated. The residue was purified by flash column chromatography (silica gel, 10% methanol/chloroform with 1% formic acid) to provide the title compound as a brown solid (0.3 g, 40%). ESMS: M+H=249.

reactant | 2-chloro-5-hydroxybenzoic acid | 3.0 mmol, 0.52 g | ClC1=C(C(=O)O)C=C(C=C1)O | C7H5ClO3
reactant | phenyl boronic acid trimeric anhydride | 5 mmol, 1.6 g | B1(OB(OB(O1)C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C18H15B3O3
reactant | triethylamine | 15 mmol, 1.5 g | C(C)N(CC)CC | C6H15N
reactant | pyridine | 15 mmol, 1.2 g | N1=CC=CC=C1 | C5H5N
reactant | HCl | 3N | Cl | ClH
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 3.0 mmol, 0.55 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 2-Chloro-5-phenoxybenzoic acid | 0.3 g, 40% | ClC1=C(C(=O)O)C=C(C=C1)OC1=CC=CC=C1 | C13H9ClO3
